US08471005B2
Into a 8-dram vial, 7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol (1.50 g, 6.22 mmol), Methylene chloride (90.0 mL, 1.40E3 mmol), and N,N-Diisopropylethylamine (4.33 mL, 24.9 mmol) were added. The reaction was stirred for 10 minutes. Trifluoromethanesulfonic anhydride (2.51 mL, 14.9 mmol) was added dropwise to the reaction mixture. The reaction was stirred at room temperature for one hour. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with hexane and EtOAc as eluant (20 to 100% EtOAc). The collected fractions afforded Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester as a red oil (0.875 g, 38%).

reactant | 7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | 6.22 mmol, 1.50 g | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)O | C13H11N3O2
reactant | Methylene chloride | 1.40E3 mmol, 90.0 mL | C(Cl)Cl | CH2Cl2
reactant | N,N-Diisopropylethylamine | 24.9 mmol, 4.33 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Trifluoromethanesulfonic anhydride | 14.9 mmol, 2.51 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 0.875 g, 38% | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C14H10F3N3O4S
